US08012966B2
A solution of 5-(2-ethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (100 mg, 0.45 mmol), di-tert-butyl dicarbonate (115 mg, 0.54 mmol), potassium carbonate (74.9 mg, 0.54 mmol) in isopropanol (5 ml) and water (6 ml) was stirred for 17 hours at room temperature. The mixture was added with water (10 ml) and extracted with ethyl acetate (20 ml×3). The “combined” organic extracts were washed with brine (15 ml), dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with ethyl acetate:n-hexane (1:3) to give ethyl-[2-(3-methyl-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl)-ethyl]-carbamic acid tert-butyl ester (74 mg, 51.37%) as a brown solid.

reactant | 5-(2-ethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 0.45 mmol, 100 mg | C(C)NCCN1C(C2=C(CC1)NC=C2C)=O | C12H19N3O
reactant | di-tert-butyl dicarbonate | 0.54 mmol, 115 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 0.54 mmol, 74.9 mg | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | water | 6 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | ethyl-[2-(3-methyl-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl)-ethyl]-carbamic acid tert-butyl ester | 74 mg, 51.37% | C(C)(C)(C)OC(N(CCN1C(C2=C(CC1)NC=C2C)=O)CC)=O | C17H27N3O3
